US07435837B2
To a solution of (±)-tert-butyl[(7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methoxy]dimethylsilane (34.12 g; 0.116 mol) in tetrahydrofuran (700 mL) cooled to 0° C. was added via an addition funnel tetrabutylammonium fluoride (140 mL, 1.0 M solution in tetrahydrofuran) and the reaction mixture was allowed to stir at room temperature for 6 h. The reaction was diluted with water (500 mL) and extracted with ethyl acetate (2×300 mL). The combined organic extracts were washed with saturated aqueous sodium chloride (400 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give (±)-(7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methanol, a crude oil. The alcohol was dissolved in dichloromethane (700 mL) and p-toluenesulfonyl chloride (33.14 g, 0.174 mol) was added followed by triethylamine (21.11 g, 0.209 mol) and then 4-(dimethylamino)pyridine (2.12 g, 0.017 mol). The reaction mixture was allowed to stir at 50° C. for 12 h. The reaction mixture was cooled to room temperature and the solvent was removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 3:7) provided 26.45 g (68%) of (±)-(7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white crystalline solid. Rf=0.38 (silica, ethyl acetate:hexanes 3:7); mp 98-103° C.; Anal. calcd. for C17H18O5S: C, 61.06; H, 5.43. Found: C, 60.80; H, 5.37.

reactant | (±)-tert-butyl[(7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methoxy]dimethylsilane | 0.116 mol, 34.12 g | C(C)(C)(C)[Si](C)(C)OCC1OC2=C(C1)C=CC=C2OC | C16H26O3Si
reactant | tetrabutylammonium fluoride | 1.0 M, 140 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 700 mL | O1CCCC1 | C4H8O
solvent | water | 500 mL | O | H2O
product | (±)-(7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methanol | COC1=CC=CC=2CC(OC21)CO | C10H12O3
